US05453443
Step 1: 4-(1-Hydroxy-4-phenylbutyl)phenol
To a 0° C. solution of 4-hydroxybenzaldehyde (6.1 g) in THF (75 mL) is added a 3.6 M ethereal solution of 3-phenylpropyl-magnesium bromide (30.5 mL). The resulting suspension was stirred at 25° C. for 16 hrs. and then transferred slowly into ice cold 25% aqueous NH4OAc. The product was extracted into EtOAc (3×100 mL) and the combined extracts were washed with brine, dried with MgSO4 and the solvents were removed under reduced pressure. The residue was swished in a 1:5 mixture of EtOAc and hexanes for 2 hrs. and the solid was filtered and dried to yield the title compound.

reactant | 4-hydroxybenzaldehyde | 6.1 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 3-phenylpropyl-magnesium bromide | 30.5 mL | C1(=CC=CC=C1)CCC[Mg]Br
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-(1-Hydroxy-4-phenylbutyl)phenol | OC(CCCC1=CC=CC=C1)C1=CC=C(C=C1)O | C16H18O2
